US07576091B2
Methyl-(2-methyl-thiazolo[4,5-h]quinazolin-8-yl)-(3-nitro-phenyl)-amine
Under dry conditions, a mixture of methyl-(2-methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-yl)-(3-nitro-phenyl)-amine (16 mg, 0.045 mmol) and 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (DDQ) (10.2 mg, 0.045 mmol) in dry toluene (2 mL) was heated under reflux for 16 h. The solvent was evaporated under vacuum and the residue was purified by flash column chromatography (10% EtOAc:hexane) to afford the title product as a yellow solid (10 mg, 68%). mp 209-210° C. Anal. RP-HPLC: tR 23.4 min (10-70% MeCN, purity 98%). 1H-NMR (CDCl3): δ 9.09 (s, 1H, Py-H), 8.41 (t, 1H, J 2.3, Ph-H), 8.09 (ddd, 1H, J 8.2, 2.3, 1.0, Ph-H), 7.85 (d, 1H, J 8.7, Ph-H), 7.79 (ddd, 1H, J 8.2, 2.3, 1.0, Ph-H), 7.72 (d, 1H, J 8.7, Ph-H), 7.58 (t, 1H, J 8.2, Ph-H), 3.78 (s, 3H, N—CH3), 2.94 (s, 3H, Me). 13C-NMR (CDCl3): δ 171.04, 161.09, 158.53, 157.16, 148.54, 148.04, 146.25, 131.74, 129.31, 125.29, 121.01, 119.85, 119.30, 116.97, 38.39, 20.48 missing 1 quat signal. MS (ESI+): m/z 352.08 (M+H)+.

reactant | methyl-(2-methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-yl)-(3-nitro-phenyl)-amine | 0.045 mmol, 16 mg | CN(C1=CC(=CC=C1)[N+](=O)[O-])C1=NC=2C3=C(CCC2C=N1)N=C(S3)C | C17H15N5O2S
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 0.045 mmol, 10.2 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl-(2-methyl-thiazolo[4,5-h]quinazolin-8-yl)-(3-nitro-phenyl)-amine | 10 mg, 68% | CN(C1=CC(=CC=C1)[N+](=O)[O-])C1=NC=2C3=C(C=CC2C=N1)N=C(S3)C | C17H13N5O2S
